US09216972B2
Preparation 20B: N-Hydroxy-4-propylbenzimidoyl chloride
To 4-propylbenzaldehyde oxime (1.4 g, 8.58 mmol) in dimethylformamide (3 mL) was added N-chlorosuccinamide (1.145 g, 8.58 mmol) in batches over a period of 10 min. at room temperature. The reaction mixture was stirred at that temperature for an additional 10 min., and partitioned between ethyl acetate (20 mL) and brine (2×20 mL). The ethyl acetate layer was dried over sodium sulfate and purified by silica gel column chromatography using hexane and ethyl acetate. Fractions corresponding to the desired product were collected and concentrated to yield the title compound, which was immediately used for the subsequent step. LCMS M+1=198.

reactant | 4-propylbenzaldehyde oxime | 8.58 mmol, 1.4 g | C(CC)C1=CC=C(C=NO)C=C1 | C10H13NO
reactant | N-chlorosuccinamide | 8.58 mmol, 1.145 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-Hydroxy-4-propylbenzimidoyl chloride | ON=C(C1=CC=C(C=C1)CCC)Cl | C10H12ClNO
